US09212172B2
Bazedoxifene free base (1 g) and ethanol (10 mL) are mixed and heated to 60° C. to produce a clear solution, which is then filtered. The filtrate is cooled to 25-35° C. and acetic acid (4 mL) is slowly added at the same temperature. The mixture is cooled to 10-15° C., followed by addition of diisopropyl ether (5 mL) and seed crystals (20 mg, obtained from a previous example), and then additional diisopropyl ether (55 mL). The mixture is stirred for solid formation. The solid is collected by filtration and sequentially washed with diisopropyl ether (10 mL) and water (5 mL), then is suction dried for 5 minutes. The wet solid is dried under vacuum at 70° C. for about 4-5 hours to afford 900 mg (about 80% yield) of crystalline bazedoxifene acetate Form D.

reactant | Bazedoxifene | 1 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | bazedoxifene acetate | 900 mg, about 80% yield | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.CC(=O)O | InChI=1S/C30H34N2O3.C2H4O2/c1-22-28-20-26(34)12-15-29(28)32(30(22)24-8-10-25(33)11-9-24)21-23-6-13-27(14-7-23)35-19-18-31-16-4-2-3-5-17-31;1-2(3)4/h6-15,20,33-34H,2-5,16-19,21H2,1H3;1H3,(H,3,4)
